US07547691B2
4-(3-Aminopropyl)-piperidine-1-carboxylic acid tert-butyl ester (0.557 g, 2.30 mmol) is added to a stirred suspension of 2-(2-chloro-5-fluoropyrimidin-4-yl)-benzo[b]thiophene-4-carboxylic acid cyclopropylamide (0.400 g, 1.15 mmol) and diisopropylethylamine (0.60 mL, 3.5 mmol) in anhydrous 1,4-dioxane (8 mL) at room temperature under nitrogen. The resultant mixture is heated in an oil bath at 95° C. for 34 hours. At room temperature the mixture is concentrated and chromatographed on silica gel, eluting with CH3OH in dichloromethane: 0-2%, to give 4-{3-[4-(4-cyclopropylcarbamoyl-benzo[b]thiophen-2-yl)-5-fluoropyrimidin-2-ylamino]-propyl}-piperidine-1-carboxylic acid tert-butyl ester (0.512 g) as a solid.

reactant | 4-(3-Aminopropyl)-piperidine-1-carboxylic acid tert-butyl ester | 2.30 mmol, 0.557 g | C(C)(C)(C)OC(=O)N1CCC(CC1)CCCN | C13H26N2O2
reactant | 2-(2-chloro-5-fluoropyrimidin-4-yl)-benzo[b]thiophene-4-carboxylic acid cyclopropylamide | 1.15 mmol, 0.400 g | C1(CC1)NC(=O)C1=CC=CC=2SC(=CC21)C2=NC(=NC=C2F)Cl | C16H11ClFN3OS
reactant | diisopropylethylamine | 3.5 mmol, 0.60 mL | C(C)(C)N(CC)C(C)C | C8H19N
solvent | 1,4-dioxane | 8 mL | O1CCOCC1 | C4H8O2
product | 4-{3-[4-(4-cyclopropylcarbamoyl-benzo[b]thiophen-2-yl)-5-fluoropyrimidin-2-ylamino]-propyl}-piperidine-1-carboxylic acid tert-butyl ester | 0.512 g | C(C)(C)(C)OC(=O)N1CCC(CC1)CCCNC1=NC=C(C(=N1)C1=CC2=C(S1)C=CC=C2C(NC2CC2)=O)F | C29H36FN5O3S
